US07402674B2
b) Ethyl 2-[2,4-dichloro-5-(2-chloro-4,6-difluorophenylamino)benzoyl]-3-dimethylaminoacrylate
A solution of 3.88 g (crude) of ethyl 3-[2,4-dichloro-5-(2-chloro-4,6-difluorophenylamino)phenyl]-3-oxopropionate and 1.22 g (0.10 mmol) of dimethylformamide dimethyl acetal in 10 ml of toluene were heated to reflux for 1.5 hours. The mixture was cooled to room temperature and concentrated in vacuo. Purification on silica gel (petroleum ether) (45-70° C.)/ethyl acetate, 8 minutes isocratic 35% ethyl acetate, then to 60% ethyl acetate in 7 minutes, flow rate 400 ml/minute) afforded 3.59 g (82% over the two stages) of the desired product.

reactant | ethyl 3-[2,4-dichloro-5-(2-chloro-4,6-difluorophenylamino)phenyl]-3-oxopropionate | 3.88 g | ClC1=C(C=C(C(=C1)Cl)NC1=C(C=C(C=C1F)F)Cl)C(CC(=O)OCC)=O | C17H12Cl3F2NO3
reactant | dimethylformamide dimethyl acetal | 0.10 mmol, 1.22 g | COC(N(C)C)OC | C5H13NO2
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | Ethyl 2-[2,4-dichloro-5-(2-chloro-4,6-difluorophenylamino)benzoyl]-3-dimethylaminoacrylate | ClC1=C(C(=O)C(C(=O)OCC)=CN(C)C)C=C(C(=C1)Cl)NC1=C(C=C(C=C1F)F)Cl | C20H17Cl3F2N2O3
